US04278686
Methyl (5R,6R)-3-[(E)-2-acetamidoethenylthio]-6-[(S)-1-ethoxysulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e22) (42 mg) was taken up in ethanol (2 ml) and treated with anhydrous potassium acetate (50 mg). After 90 minutes the solvent was removed by evaporation and the product dissolved in ethyl acetate (10 ml) and washed with water (10 ml), and with brine (10 ml) and then dried (MgSO4) and evaporated. The i.r. and u.v. spectra of crude material showed that the ethylidene compound had been formed. This was purified by chromatography on silica gel to give methyl (5R,6E)-3-[(E)-2-acetamidoethenylthio]-6-ethylidene-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e34) (14 mg). νmax (CH2Cl2) 1780, 1705, 1625 cm-1. δ[CDCl3 +1 drop (CD3)2CO] 1.79 (3 H, d, J 7 Hz, CH3CH=), 2.02 (3H, s, CH3CO), 2.90 (1H, dd, J 18 Hz and 8.5 Hz, HA of ABX), 3.16 (1H, dd, J 18 and 9.5 Hz, HB of ABX), 3.78 (3H, s, OCH3), 4.69 (1H, broad t, CH.CH2), 5.84 (1H, d, J 14 Hz SCH:CH), 6.33 (1H, broad q, J 7 Hz, CH3CH=), 7.18 (1H, dd, J 14 and 10 Hz, NH.CH=CH), 8.86 (1H, broad d, J 10 Hz, CONH.CH) p.p.m.

reactant | Methyl (5R,6R)-3-[(E)-2-acetamidoethenylthio]-6-[(S)-1-ethoxysulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 42 mg | C(C)(=O)N/C=C/SC1=C(N2C([C@H]([C@H]2C1)[C@H](C)OS(=O)(=O)OCC)=O)C(=O)OC | C16H22N2O8S2
reactant | potassium acetate | 50 mg | C(C)(=O)[O-].[K+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | methyl (5R,6E)-3-[(E)-2-acetamidoethenylthio]-6-ethylidene-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 14 mg | C(C)(=O)N/C=C/SC1=C(N2C(/C(/[C@H]2C1)=C/C)=O)C(=O)OC | C14H16N2O4S
